US07348337B2
To a mixture of AlCl3 (0.665 g, 5.0 mmol) in 4 mL of CH2Cl2—MeNO2 (4:1) was added 4-methoxy-7-(1,2,4-triazol-1-yl)-6-azaindole (0.108 g, 0.50 mmol) as a solid. To the resulting solution was added methyl oxalyl chloride (0.185 mL, 2.0 mmol) dropwise and then the mixture was stirred at room temperature for 16 h. The reaction mixture was then carefully poured into 20% aqueous ammonium acetate and EtOAc was added. The resulting emulsion was filtered and the residue was washed with additional EtOAc. The organic phase was washed (brine), dried (Na2SO4) and evaporated, and the residue was triturated with MeOH to give 4-methoxy-7-(1,2,4-triazol-1-yl)-6-azaindol-3-yl-oxoacetic acid methyl ester (0.069 g, 46%) as a yellow solid: MS m/e 300 (M−H)−. This material (0.069 g, 0.229 mmol) was taken up in 3 mL of MeOH, 1M K2CO3 (0.9 mL, 0.9 mmol) was added and the mixture was stirred at room temperature for 20 h. The solution was then diluted with an equal volume of water and concentrated in vacuo. The resulting aqueous solution was cooled at 0° C. and acidified to pH 1-2 with 6N HCl. This gave a bright yellow precipitate which was filtered, washed with cold 0.1N HCl and then with ether. The wet solid was suspended in ether with sonication and then it was filtered and dried in vacuo to give the title compound (0.049 g, 75%) as a yellow powder:

reactant | AlCl3 | 5.0 mmol, 0.665 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-methoxy-7-(1,2,4-triazol-1-yl)-6-azaindole | 0.50 mmol, 0.108 g | COC1=C2C=CNC2=C(N=C1)N1N=CN=C1 | C10H9N5O
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 MeNO2 | 4 mL | C(Cl)Cl.C[N+](=O)[O-]
product | 4-methoxy-7-(1,2,4-triazol-1-yl)-6-azaindol-3-yl-oxoacetic acid methyl ester | 0.069 g, 46% | COC(C(=O)C1=CNC2=C(N=CC(=C12)OC)N1N=CN=C1)=O | C13H11N5O4
